CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\AddBCD.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
Vin1 5 0 PULSE(0.00 0.50 0.95N 0.05N 0.05N 0.95N 2.00N)
*
* List of nodes
* "Y3" corresponds to n°4
* "in1" corresponds to n°5
* "Sup10" corresponds to n°6
* "i7w3" corresponds to n°7
* " xor22_fadd4_Add41_i5w1" corresponds to n°8
* "Y2" corresponds to n°9
* "i0w6" corresponds to n°11
* " nand21_fadd2_Sub41_i9w4" corresponds to n°14
* "i1w1" corresponds to n°15
* " nmos3_i0w12" corresponds to n°16
* " xor22_fadd2_Sub41_i9w1" corresponds to n°17
* " pmos3_i0w13" corresponds to n°19
* " nand23_fadd3_Add41_i4w2" corresponds to n°22
* " nmos1_i0w14" corresponds to n°23
* "i0w9" corresponds to n°24
* "i0w3" corresponds to n°25
* " nand22_fadd3_Add41_i4w3" corresponds to n°26
* " nmos4_i0w11" corresponds to n°28
* "i0w2" corresponds to n°29
* " nand21_fadd3_Add41_i4w4" corresponds to n°31
* " nand31_fadd1_Sub41_i7w6" corresponds to n°32
* " xor22_fadd3_Add41_i4w1" corresponds to n°33
* " nand23_fadd1_Sub41_i8w2" corresponds to n°36
* " nand22_fadd1_Sub41_i8w3" corresponds to n°37
* " nand21_fadd1_Sub41_i8w4" corresponds to n°40
* "i7w2" corresponds to n°41
* "i0w4" corresponds to n°42
* " xor22_fadd1_Sub41_i8w1" corresponds to n°43
* "i0_PAD (north)" corresponds to n°44
* " nand23_fadd4_Sub41_i11w2" corresponds to n°46
* " nand23_fadd2_Add41_i3w2" corresponds to n°48
* "i0w10" corresponds to n°49
* " nand22_fadd4_Sub41_i11w3" corresponds to n°50
* " nand22_fadd2_Add41_i3w3" corresponds to n°51
* " nand21_fadd4_Sub41_i11w4" corresponds to n°53
* " nand21_fadd2_Add41_i3w4" corresponds to n°55
* " xor22_fadd4_Sub41_i11w1" corresponds to n°56
* " not14_Sub41_i7w7" corresponds to n°57
* " xor22_fadd2_Add41_i3w1" corresponds to n°58
* "i7w1" corresponds to n°60
* "i7w4" corresponds to n°63
* " xor21_fadd4_Sub41_i0w7" corresponds to n°65
* " not11_Sub41_i7w8" corresponds to n°66
* " nand31_fadd3_Sub41_i7w5" corresponds to n°73
* " nand31_fadd1_Add41_i1w2" corresponds to n°75
* " and22_Sup101_i6w1" corresponds to n°76
* " nand23_fadd3_Sub41_i10w2" corresponds to n°77
* " nand23_fadd1_Add41_i2w2" corresponds to n°79
* " and21_Sup101_i6w2" corresponds to n°80
* " nand22_fadd3_Sub41_i10w3" corresponds to n°81
* " nand22_fadd1_Add41_i2w3" corresponds to n°82
* " nand21_fadd3_Sub41_i10w4" corresponds to n°84
* " nand21_fadd1_Add41_i2w4" corresponds to n°85
* "i1w3" corresponds to n°86
* " xor22_fadd3_Sub41_i10w1" corresponds to n°87
* " xor22_fadd1_Add41_i2w1" corresponds to n°88
* " nand23_fadd4_Add41_i5w2" corresponds to n°92
* " nand22_fadd4_Add41_i5w3" corresponds to n°95
* "N100" corresponds to n°100
* "X1" corresponds to n°101
* "X2" corresponds to n°102
* "N103" corresponds to n°103
* "N104" corresponds to n°104
* "N105" corresponds to n°105
* "N106" corresponds to n°106
* "N107" corresponds to n°107
* "N108" corresponds to n°108
* "N109" corresponds to n°109
* "N110" corresponds to n°110
* "N111" corresponds to n°111
* "N112" corresponds to n°112
* "N113" corresponds to n°113
* "N114" corresponds to n°114
* "N115" corresponds to n°115
* "N116" corresponds to n°116
* "N117" corresponds to n°117
* "N118" corresponds to n°118
* "N119" corresponds to n°119
* "N120" corresponds to n°120
* "N121" corresponds to n°121
* "N122" corresponds to n°122
* "N123" corresponds to n°123
* "N124" corresponds to n°124
* "N125" corresponds to n°125
* "N126" corresponds to n°126
* "N127" corresponds to n°127
* "N128" corresponds to n°128
* "N129" corresponds to n°129
* "N130" corresponds to n°130
* "N131" corresponds to n°131
* "N132" corresponds to n°132
* "N133" corresponds to n°133
* "N134" corresponds to n°134
* "N135" corresponds to n°135
* "N136" corresponds to n°136
* "N137" corresponds to n°137
* "N138" corresponds to n°138
* "N139" corresponds to n°139
* "N140" corresponds to n°140
* "N141" corresponds to n°141
* "N142" corresponds to n°142
* "N143" corresponds to n°143
* "N144" corresponds to n°144
* "i7vdd" corresponds to n°145
* "N146" corresponds to n°146
*
* MOS devices
MN1 103 4 7 0 N1  W= 0.15U L= 0.05U
MN2 0 5 8 0 N1  W= 0.15U L= 0.05U
MN3 104 5 103 0 N1  W= 0.15U L= 0.05U
MN4 0 14 104 0 N1  W= 0.15U L= 0.05U
MN5 102 9 5 0 N1  W= 0.15U L= 0.05U
MN6 105 32 4 0 N1  W= 0.15U L= 0.05U
MN7 0 102 10 0 N1  W= 0.15U L= 0.05U
MN8 0 1 105 0 N1  W= 0.15U L= 0.05U
MN9 0 12 11 0 N1  W= 0.15U L= 0.05U
MN10 106 32 5 0 N1  W= 0.15U L= 0.05U
MN11 0 57 106 0 N1  W= 0.15U L= 0.05U
MN12 8 15 12 0 N1  W= 0.15U L= 0.05U
MN13 107 1 14 0 N1  W= 0.15U L= 0.05U
MN14 0 8 13 0 N1  W= 0.15U L= 0.05U
MN15 0 57 107 0 N1  W= 0.15U L= 0.05U
MN16 108 22 15 0 N1  W= 0.15U L= 0.05U
MN17 0 18 17 0 N1  W= 0.15U L= 0.05U
MN18 109 26 108 0 N1  W= 0.15U L= 0.05U
MN19 0 31 109 0 N1  W= 0.15U L= 0.05U
MN20 1 57 18 0 N1  W= 0.15U L= 0.05U
MN21 110 5 22 0 N1  W= 0.15U L= 0.05U
MN22 0 1 21 0 N1  W= 0.15U L= 0.05U
MN23 0 101 110 0 N1  W= 0.15U L= 0.05U
MN24 0 27 24 0 N1  W= 0.15U L= 0.05U
MN25 111 5 26 0 N1  W= 0.15U L= 0.05U
MN26 0 9 111 0 N1  W= 0.15U L= 0.05U
MN27 17 32 27 0 N1  W= 0.15U L= 0.05U
MN28 112 101 31 0 N1  W= 0.15U L= 0.05U
MN29 0 17 30 0 N1  W= 0.15U L= 0.05U
MN30 0 9 112 0 N1  W= 0.15U L= 0.05U
MN31 65 6 28 0 N1  W= 0.15U L= 0.05U
MN32 113 36 32 0 N1  W= 0.15U L= 0.05U
MN33 0 34 33 0 N1  W= 0.15U L= 0.05U
MN34 114 37 113 0 N1  W= 0.15U L= 0.05U
MN35 0 40 114 0 N1  W= 0.15U L= 0.05U
MN36 101 9 34 0 N1  W= 0.15U L= 0.05U
MN37 49 6 16 0 N1  W= 0.15U L= 0.05U
MN38 115 41 36 0 N1  W= 0.15U L= 0.05U
MN39 0 101 35 0 N1  W= 0.15U L= 0.05U
MN40 0 11 115 0 N1  W= 0.15U L= 0.05U
MN41 24 6 19 0 N1  W= 0.15U L= 0.05U
MN42 0 38 29 0 N1  W= 0.15U L= 0.05U
MN43 116 41 37 0 N1  W= 0.15U L= 0.05U
MN44 0 66 116 0 N1  W= 0.15U L= 0.05U
MN45 33 5 38 0 N1  W= 0.15U L= 0.05U
MN46 1 6 23 0 N1  W= 0.15U L= 0.05U
MN47 117 11 40 0 N1  W= 0.15U L= 0.05U
MN48 0 33 39 0 N1  W= 0.15U L= 0.05U
MN49 0 66 117 0 N1  W= 0.15U L= 0.05U
MN50 118 46 41 0 N1  W= 0.15U L= 0.05U
MN51 119 48 42 0 N1  W= 0.15U L= 0.05U
MN52 120 50 118 0 N1  W= 0.15U L= 0.05U
MN53 0 45 43 0 N1  W= 0.15U L= 0.05U
MN54 121 51 119 0 N1  W= 0.15U L= 0.05U
MN55 0 53 120 0 N1  W= 0.15U L= 0.05U
MN56 0 55 121 0 N1  W= 0.15U L= 0.05U
MN57 11 66 45 0 N1  W= 0.15U L= 0.05U
MN58 122 145 46 0 N1  W= 0.15U L= 0.05U
MN59 123 75 48 0 N1  W= 0.15U L= 0.05U
MN60 0 29 122 0 N1  W= 0.15U L= 0.05U
MN61 0 11 47 0 N1  W= 0.15U L= 0.05U
MN62 0 9 123 0 N1  W= 0.15U L= 0.05U
MN63 124 145 50 0 N1  W= 0.15U L= 0.05U
MN64 0 52 49 0 N1  W= 0.15U L= 0.05U
MN65 125 75 51 0 N1  W= 0.15U L= 0.05U
MN66 0 60 124 0 N1  W= 0.15U L= 0.05U
MN67 0 5 125 0 N1  W= 0.15U L= 0.05U
MN68 43 41 52 0 N1  W= 0.15U L= 0.05U
MN69 126 29 53 0 N1  W= 0.15U L= 0.05U
MN70 127 9 55 0 N1  W= 0.15U L= 0.05U
MN71 0 60 126 0 N1  W= 0.15U L= 0.05U
MN72 0 43 54 0 N1  W= 0.15U L= 0.05U
MN73 0 5 127 0 N1  W= 0.15U L= 0.05U
MN74 0 59 56 0 N1  W= 0.15U L= 0.05U
MN75 0 146 57 0 N1  W= 0.15U L= 0.05U
MN76 0 61 58 0 N1  W= 0.15U L= 0.05U
MN77 29 60 59 0 N1  W= 0.15U L= 0.05U
MN78 0 146 60 0 N1  W= 0.15U L= 0.05U
MN79 9 5 61 0 N1  W= 0.15U L= 0.05U
MN80 0 29 62 0 N1  W= 0.15U L= 0.05U
MN81 0 145 63 0 N1  W= 0.15U L= 0.05U
MN82 0 9 64 0 N1  W= 0.15U L= 0.05U
MN83 0 67 65 0 N1  W= 0.15U L= 0.05U
MN84 0 145 66 0 N1  W= 0.15U L= 0.05U
MN85 0 68 25 0 N1  W= 0.15U L= 0.05U
MN86 56 145 67 0 N1  W= 0.15U L= 0.05U
MN87 0 70 6 0 N1  W= 0.15U L= 0.05U
MN88 58 75 68 0 N1  W= 0.15U L= 0.05U
MN89 0 56 69 0 N1  W= 0.15U L= 0.05U
MN90 0 80 70 0 N1  W= 0.15U L= 0.05U
MN91 0 58 71 0 N1  W= 0.15U L= 0.05U
MN92 70 76 0 0 N1  W= 0.15U L= 0.05U
MN93 128 77 73 0 N1  W= 0.15U L= 0.05U
MN94 0 42 70 0 N1  W= 0.15U L= 0.05U
MN95 129 79 75 0 N1  W= 0.15U L= 0.05U
MN96 130 81 128 0 N1  W= 0.15U L= 0.05U
MN97 131 82 129 0 N1  W= 0.15U L= 0.05U
MN98 0 84 130 0 N1  W= 0.15U L= 0.05U
MN99 0 78 76 0 N1  W= 0.15U L= 0.05U
MN100 0 85 131 0 N1  W= 0.15U L= 0.05U
MN101 132 7 77 0 N1  W= 0.15U L= 0.05U
MN102 133 25 78 0 N1  W= 0.15U L= 0.05U
MN103 134 86 79 0 N1  W= 0.15U L= 0.05U
MN104 0 25 132 0 N1  W= 0.15U L= 0.05U
MN105 0 1 133 0 N1  W= 0.15U L= 0.05U
MN106 0 9 134 0 N1  W= 0.15U L= 0.05U
MN107 135 7 81 0 N1  W= 0.15U L= 0.05U
MN108 0 83 80 0 N1  W= 0.15U L= 0.05U
MN109 136 86 82 0 N1  W= 0.15U L= 0.05U
MN110 0 63 135 0 N1  W= 0.15U L= 0.05U
MN111 0 4 136 0 N1  W= 0.15U L= 0.05U
MN112 137 11 83 0 N1  W= 0.15U L= 0.05U
MN113 138 25 84 0 N1  W= 0.15U L= 0.05U
MN114 0 25 137 0 N1  W= 0.15U L= 0.05U
MN115 139 9 85 0 N1  W= 0.15U L= 0.05U
MN116 0 63 138 0 N1  W= 0.15U L= 0.05U
MN117 0 4 139 0 N1  W= 0.15U L= 0.05U
MN118 140 92 86 0 N1  W= 0.15U L= 0.05U
MN119 0 89 87 0 N1  W= 0.15U L= 0.05U
MN120 141 95 140 0 N1  W= 0.15U L= 0.05U
MN121 0 90 88 0 N1  W= 0.15U L= 0.05U
MN122 0 1 141 0 N1  W= 0.15U L= 0.05U
MN123 25 63 89 0 N1  W= 0.15U L= 0.05U
MN124 9 4 90 0 N1  W= 0.15U L= 0.05U
MN125 142 15 92 0 N1  W= 0.15U L= 0.05U
MN126 0 25 91 0 N1  W= 0.15U L= 0.05U
MN127 0 102 142 0 N1  W= 0.15U L= 0.05U
MN128 0 9 93 0 N1  W= 0.15U L= 0.05U
MN129 0 96 1 0 N1  W= 0.15U L= 0.05U
MN130 143 15 95 0 N1  W= 0.15U L= 0.05U
MN131 0 97 1 0 N1  W= 0.15U L= 0.05U
MN132 0 9 143 0 N1  W= 0.15U L= 0.05U
MN133 87 7 96 0 N1  W= 0.15U L= 0.05U
MN134 88 86 97 0 N1  W= 0.15U L= 0.05U
MN135 144 102 1 0 N1  W= 0.15U L= 0.05U
MN136 0 87 98 0 N1  W= 0.15U L= 0.05U
MN137 0 9 144 0 N1  W= 0.15U L= 0.05U
MN138 0 88 100 0 N1  W= 0.15U L= 0.05U
MP1 2 4 7 2 P1  W= 0.40U L= 0.05U
MP2 2 5 8 2 P1  W= 0.40U L= 0.05U
MP3 7 5 2 2 P1  W= 0.40U L= 0.05U
MP4 2 14 7 2 P1  W= 0.40U L= 0.05U
MP5 10 9 5 2 P1  W= 0.40U L= 0.05U
MP6 4 32 2 2 P1  W= 0.40U L= 0.05U
MP7 2 102 10 2 P1  W= 0.40U L= 0.05U
MP8 2 1 4 2 P1  W= 0.40U L= 0.05U
MP9 2 12 11 2 P1  W= 0.40U L= 0.05U
MP10 5 32 2 2 P1  W= 0.40U L= 0.05U
MP11 2 57 5 2 P1  W= 0.40U L= 0.05U
MP12 13 15 12 2 P1  W= 0.40U L= 0.05U
MP13 14 1 2 2 P1  W= 0.40U L= 0.05U
MP14 2 8 13 2 P1  W= 0.40U L= 0.05U
MP15 2 57 14 2 P1  W= 0.40U L= 0.05U
MP16 2 22 15 2 P1  W= 0.40U L= 0.05U
MP17 11 6 16 2 P1  W= 0.40U L= 0.05U
MP18 2 18 17 2 P1  W= 0.40U L= 0.05U
MP19 15 26 2 2 P1  W= 0.40U L= 0.05U
MP20 2 31 15 2 P1  W= 0.40U L= 0.05U
MP21 21 57 18 2 P1  W= 0.40U L= 0.05U
MP22 1 6 19 2 P1  W= 0.40U L= 0.05U
MP23 22 5 2 2 P1  W= 0.40U L= 0.05U
MP24 2 1 21 2 P1  W= 0.40U L= 0.05U
MP25 2 101 22 2 P1  W= 0.40U L= 0.05U
MP26 25 6 23 2 P1  W= 0.40U L= 0.05U
MP27 2 27 24 2 P1  W= 0.40U L= 0.05U
MP28 26 5 2 2 P1  W= 0.40U L= 0.05U
MP29 2 9 26 2 P1  W= 0.40U L= 0.05U
MP30 30 32 27 2 P1  W= 0.40U L= 0.05U
MP31 29 6 28 2 P1  W= 0.40U L= 0.05U
MP32 31 101 2 2 P1  W= 0.40U L= 0.05U
MP33 2 17 30 2 P1  W= 0.40U L= 0.05U
MP34 2 9 31 2 P1  W= 0.40U L= 0.05U
MP35 2 36 32 2 P1  W= 0.40U L= 0.05U
MP36 2 34 33 2 P1  W= 0.40U L= 0.05U
MP37 32 37 2 2 P1  W= 0.40U L= 0.05U
MP38 2 40 32 2 P1  W= 0.40U L= 0.05U
MP39 35 9 34 2 P1  W= 0.40U L= 0.05U
MP40 36 41 2 2 P1  W= 0.40U L= 0.05U
MP41 2 101 35 2 P1  W= 0.40U L= 0.05U
MP42 2 11 36 2 P1  W= 0.40U L= 0.05U
MP43 2 38 29 2 P1  W= 0.40U L= 0.05U
MP44 37 41 2 2 P1  W= 0.40U L= 0.05U
MP45 2 66 37 2 P1  W= 0.40U L= 0.05U
MP46 39 5 38 2 P1  W= 0.40U L= 0.05U
MP47 40 11 2 2 P1  W= 0.40U L= 0.05U
MP48 2 33 39 2 P1  W= 0.40U L= 0.05U
MP49 2 66 40 2 P1  W= 0.40U L= 0.05U
MP50 2 46 41 2 P1  W= 0.40U L= 0.05U
MP51 2 48 42 2 P1  W= 0.40U L= 0.05U
MP52 41 50 2 2 P1  W= 0.40U L= 0.05U
MP53 2 45 43 2 P1  W= 0.40U L= 0.05U
MP54 42 51 2 2 P1  W= 0.40U L= 0.05U
MP55 2 53 41 2 P1  W= 0.40U L= 0.05U
MP56 2 55 42 2 P1  W= 0.40U L= 0.05U
MP57 47 66 45 2 P1  W= 0.40U L= 0.05U
MP58 46 145 2 2 P1  W= 0.40U L= 0.05U
MP59 48 75 2 2 P1  W= 0.40U L= 0.05U
MP60 2 29 46 2 P1  W= 0.40U L= 0.05U
MP61 2 11 47 2 P1  W= 0.40U L= 0.05U
MP62 2 9 48 2 P1  W= 0.40U L= 0.05U
MP63 50 145 2 2 P1  W= 0.40U L= 0.05U
MP64 2 52 49 2 P1  W= 0.40U L= 0.05U
MP65 51 75 2 2 P1  W= 0.40U L= 0.05U
MP66 2 60 50 2 P1  W= 0.40U L= 0.05U
MP67 2 5 51 2 P1  W= 0.40U L= 0.05U
MP68 54 41 52 2 P1  W= 0.40U L= 0.05U
MP69 53 29 2 2 P1  W= 0.40U L= 0.05U
MP70 55 9 2 2 P1  W= 0.40U L= 0.05U
MP71 2 60 53 2 P1  W= 0.40U L= 0.05U
MP72 2 43 54 2 P1  W= 0.40U L= 0.05U
MP73 2 5 55 2 P1  W= 0.40U L= 0.05U
MP74 2 59 56 2 P1  W= 0.40U L= 0.05U
MP75 2 146 57 2 P1  W= 0.40U L= 0.05U
MP76 2 61 58 2 P1  W= 0.40U L= 0.05U
MP77 62 60 59 2 P1  W= 0.40U L= 0.05U
MP78 2 146 60 2 P1  W= 0.40U L= 0.05U
MP79 64 5 61 2 P1  W= 0.40U L= 0.05U
MP80 2 29 62 2 P1  W= 0.40U L= 0.05U
MP81 2 145 63 2 P1  W= 0.40U L= 0.05U
MP82 2 9 64 2 P1  W= 0.40U L= 0.05U
MP83 2 67 65 2 P1  W= 0.40U L= 0.05U
MP84 2 145 66 2 P1  W= 0.40U L= 0.05U
MP85 2 68 25 2 P1  W= 0.40U L= 0.05U
MP86 69 145 67 2 P1  W= 0.40U L= 0.05U
MP87 2 70 6 2 P1  W= 0.40U L= 0.05U
MP88 71 75 68 2 P1  W= 0.40U L= 0.05U
MP89 2 56 69 2 P1  W= 0.40U L= 0.05U
MP90 72 80 70 2 P1  W= 0.40U L= 0.05U
MP91 2 58 71 2 P1  W= 0.40U L= 0.05U
MP92 74 76 72 2 P1  W= 0.40U L= 0.05U
MP93 2 77 73 2 P1  W= 0.40U L= 0.05U
MP94 2 42 74 2 P1  W= 0.40U L= 0.05U
MP95 2 79 75 2 P1  W= 0.40U L= 0.05U
MP96 73 81 2 2 P1  W= 0.40U L= 0.05U
MP97 75 82 2 2 P1  W= 0.40U L= 0.05U
MP98 2 84 73 2 P1  W= 0.40U L= 0.05U
MP99 2 78 76 2 P1  W= 0.40U L= 0.05U
MP100 2 85 75 2 P1  W= 0.40U L= 0.05U
MP101 77 7 2 2 P1  W= 0.40U L= 0.05U
MP102 78 25 2 2 P1  W= 0.40U L= 0.05U
MP103 79 86 2 2 P1  W= 0.40U L= 0.05U
MP104 2 25 77 2 P1  W= 0.40U L= 0.05U
MP105 2 1 78 2 P1  W= 0.40U L= 0.05U
MP106 2 9 79 2 P1  W= 0.40U L= 0.05U
MP107 81 7 2 2 P1  W= 0.40U L= 0.05U
MP108 2 83 80 2 P1  W= 0.40U L= 0.05U
MP109 82 86 2 2 P1  W= 0.40U L= 0.05U
MP110 2 63 81 2 P1  W= 0.40U L= 0.05U
MP111 2 4 82 2 P1  W= 0.40U L= 0.05U
MP112 83 11 2 2 P1  W= 0.40U L= 0.05U
MP113 84 25 2 2 P1  W= 0.40U L= 0.05U
MP114 2 25 83 2 P1  W= 0.40U L= 0.05U
MP115 85 9 2 2 P1  W= 0.40U L= 0.05U
MP116 2 63 84 2 P1  W= 0.40U L= 0.05U
MP117 2 4 85 2 P1  W= 0.40U L= 0.05U
MP118 2 92 86 2 P1  W= 0.40U L= 0.05U
MP119 2 89 87 2 P1  W= 0.40U L= 0.05U
MP120 86 95 2 2 P1  W= 0.40U L= 0.05U
MP121 2 90 88 2 P1  W= 0.40U L= 0.05U
MP122 2 1 86 2 P1  W= 0.40U L= 0.05U
MP123 91 63 89 2 P1  W= 0.40U L= 0.05U
MP124 93 4 90 2 P1  W= 0.40U L= 0.05U
MP125 92 15 2 2 P1  W= 0.40U L= 0.05U
MP126 2 25 91 2 P1  W= 0.40U L= 0.05U
MP127 2 102 92 2 P1  W= 0.40U L= 0.05U
MP128 2 9 93 2 P1  W= 0.40U L= 0.05U
MP129 2 96 1 2 P1  W= 0.40U L= 0.05U
MP130 95 15 2 2 P1  W= 0.40U L= 0.05U
MP131 2 97 1 2 P1  W= 0.40U L= 0.05U
MP132 2 9 95 2 P1  W= 0.40U L= 0.05U
MP133 98 7 96 2 P1  W= 0.40U L= 0.05U
MP134 100 86 97 2 P1  W= 0.40U L= 0.05U
MP135 1 102 2 2 P1  W= 0.40U L= 0.05U
MP136 2 87 98 2 P1  W= 0.40U L= 0.05U
MP137 2 9 1 2 P1  W= 0.40U L= 0.05U
MP138 2 88 100 2 P1  W= 0.40U L= 0.05U
*
C2 2 0 68.608fF
C4 4 0 10.769fF
C5 5 0 18.686fF
C6 6 0 13.094fF
C7 7 0  6.072fF
C8 8 0  1.147fF
C9 9 0 32.392fF
C10 10 0  0.271fF
C11 11 0  8.855fF
C12 12 0  0.457fF
C13 13 0  0.271fF
C14 14 0  0.970fF
C15 15 0  5.019fF
C16 16 0  1.223fF
C17 17 0  1.169fF
C18 18 0  0.457fF
C19 19 0  1.174fF
C20 1 0  7.281fF
C21 21 0  0.271fF
C22 22 0  0.901fF
C23 23 0  1.156fF
C24 24 0  5.942fF
C25 25 0  6.590fF
C26 26 0  0.926fF
C27 27 0  0.457fF
C28 28 0  0.936fF
C29 29 0  6.146fF
C30 30 0  0.271fF
C31 31 0  0.943fF
C32 32 0  1.960fF
C33 33 0  1.125fF
C34 34 0  0.457fF
C35 35 0  0.271fF
C36 36 0  0.883fF
C37 37 0  0.971fF
C38 38 0  0.457fF
C39 39 0  0.271fF
C40 40 0  0.988fF
C41 41 0  6.549fF
C42 42 0  4.081fF
C43 43 0  1.169fF
C44 44 0  3.198fF
C45 45 0  0.457fF
C46 46 0  0.945fF
C47 47 0  0.271fF
C48 48 0  0.879fF
C49 49 0  5.371fF
C50 50 0  0.967fF
C51 51 0  0.944fF
C52 52 0  0.457fF
C53 53 0  0.943fF
C54 54 0  0.271fF
C55 55 0  0.943fF
C56 56 0  1.125fF
C57 57 0  2.212fF
C58 58 0  1.147fF
C59 59 0  0.457fF
C60 60 0  5.199fF
C61 61 0  0.457fF
C62 62 0  0.271fF
C63 63 0  4.459fF
C64 64 0  0.271fF
C65 65 0  1.571fF
C66 66 0  1.888fF
C67 67 0  0.457fF
C68 68 0  0.457fF
C69 69 0  0.271fF
C70 70 0  0.589fF
C71 71 0  0.271fF
C72 72 0  0.084fF
C73 73 0  0.602fF
C74 74 0  0.084fF
C75 75 0  1.938fF
C76 76 0  0.809fF
C77 77 0  0.923fF
C78 78 0  0.480fF
C79 79 0  0.901fF
C80 80 0  0.917fF
C81 81 0  0.944fF
C82 82 0  0.922fF
C83 83 0  0.480fF
C84 84 0  0.947fF
C85 85 0  0.943fF
C86 86 0  4.030fF
C87 87 0  1.125fF
C88 88 0  1.125fF
C89 89 0  0.457fF
C90 90 0  0.457fF
C91 91 0  0.271fF
C92 92 0  0.901fF
C93 93 0  0.271fF
C94 1 0  1.896fF
C95 95 0  0.922fF
C96 96 0  0.457fF
C97 97 0  0.457fF
C98 98 0  0.271fF
C99 1 0  0.943fF
C100 100 0  0.271fF
C101 101 0  7.713fF
C102 102 0  8.485fF
C103 103 0  0.046fF
C104 104 0  0.046fF
C105 105 0  0.046fF
C106 106 0  0.046fF
C107 107 0  0.046fF
C108 108 0  0.046fF
C109 109 0  0.046fF
C110 110 0  0.046fF
C111 111 0  0.046fF
C112 112 0  0.046fF
C113 113 0  0.046fF
C114 114 0  0.046fF
C115 115 0  0.046fF
C116 116 0  0.046fF
C117 117 0  0.046fF
C118 118 0  0.046fF
C119 119 0  0.046fF
C120 120 0  0.046fF
C121 121 0  0.046fF
C122 122 0  0.046fF
C123 123 0  0.046fF
C124 124 0  0.046fF
C125 125 0  0.046fF
C126 126 0  0.046fF
C127 127 0  0.046fF
C128 128 0  0.046fF
C129 129 0  0.046fF
C130 130 0  0.046fF
C131 131 0  0.046fF
C132 132 0  0.046fF
C133 133 0  0.046fF
C134 134 0  0.046fF
C135 135 0  0.046fF
C136 136 0  0.046fF
C137 137 0  0.046fF
C138 138 0  0.046fF
C139 139 0  0.046fF
C140 140 0  0.046fF
C141 141 0  0.046fF
C142 142 0  0.046fF
C143 143 0  0.046fF
C144 144 0  0.046fF
C145 145 0  5.112fF
C146 146 0  0.520fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.20 UO=600.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.20 UO=200.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 500.00N
* (Pspice)
.PROBE
.END
