CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\6t4.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
Vclock1 5 0 PULSE(0.00 0.50 0.05N 0.01N 0.01N 0.04N 0.10N)
Vclock2 8 0 PULSE(0.50 0.00 0.05N 0.01N 0.01N 0.04N 0.10N)
*
* List of nodes
* "N3" corresponds to n°3
* "N4" corresponds to n°4
* "clock1" corresponds to n°5
* "s2" corresponds to n°6
* "clock2" corresponds to n°8
* "s1" corresponds to n°9
*
* MOS devices
MN1 6 1 5 0 N1  W= 0.23U L= 0.05U
MN2 0 9 6 0 N1  W= 0.23U L= 0.05U
MN3 9 6 0 0 N1  W= 0.23U L= 0.05U
MN4 8 1 9 0 N1  W= 0.23U L= 0.05U
MP1 5 12 4 3 P1  W= 0.15U L= 0.05U
MP2 1 9 6 1 P1  W= 0.13U L= 0.05U
MP3 9 6 1 1 P1  W= 0.13U L= 0.05U
MP4 8 12 4 3 P1  W= 0.15U L= 0.05U
*
C2 1 0  0.116fF
C3 3 0  0.177fF
C4 4 0  0.231fF
C5 5 0  0.305fF
C6 6 0  0.292fF
C7 1 0  0.186fF
C8 8 0  0.300fF
C9 9 0  0.286fF
C11 1 0  0.106fF
C12 12 0  0.009fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.20 UO=600.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.20 UO=200.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
