CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\6t90n..MSK
*
* IC Technology: CMOS 90nm - 6 Metal
*
VDD 1 0 DC 1.00
Vclock1 6 0 PULSE(0.00 1.00 1.00N 0.01N 0.00N 1.00N 2.00N)
Vclock2 8 0 PULSE(1.00 0.00 1.00N 0.01N 0.00N 1.00N 2.00N)
*
* List of nodes
* "s2" corresponds to n°3
* "s1" corresponds to n°5
* "clock1" corresponds to n°6
* "clock2" corresponds to n°8
*
* MOS devices
MN1 0 5 3 0 N1  W= 0.45U L= 0.10U
MN2 3 1 6 0 N1  W= 0.45U L= 0.10U
MN3 5 3 0 0 N1  W= 0.45U L= 0.10U
MN4 8 1 5 0 N1  W= 0.45U L= 0.10U
MP1 1 5 3 1 P1  W= 0.20U L= 0.10U
MP2 5 3 1 1 P1  W= 0.20U L= 0.10U
*
C2 1 0  0.463fF
C3 3 0  0.653fF
C4 1 0  0.448fF
C5 5 0  0.636fF
C6 6 0  0.447fF
C8 8 0  0.434fF
C9 1 0  0.036fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.35 UO=500.000 TOX= 1.8E-9
+LD =0.008U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.200 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.35 UO=200.000 TOX= 1.8E-9
+LD =0.008U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.150 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 2.00N
* (Pspice)
.PROBE
.END
